US04233299
5.0 gm (16.5 millimols) of methyl 6-chloro-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide and 2.1 gm (18.5 millimols) of 2-amino-5-methyl-thiazole were refluxed in 300 ml of anhydrous xylene for 24 hours in a Soxhlet-apparatus equipped with a 4-A-molecular sieve. After cooling, the crude product which had crystallized out was filtered off and recrystallized from dioxane. 4.9 gm (77% of theory) of 6-chloro-4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide were obtained.

reactant | methyl 6-chloro-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 16.5 millimols, 5.0 gm | ClC=1C=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)OC)O)C1 | C11H10ClNO5S
reactant | 2-amino-5-methyl-thiazole | 18.5 millimols, 2.1 gm | NC=1SC(=CN1)C | C4H6N2S
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-chloro-4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 4.9 gm, 77% | ClC=1C=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)NC=2SC(=CN2)C)O)C1 | C14H12ClN3O4S2
